US07872014B2
To a solution of (8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)acetonitrile (0.40 g, 2.10 mmol) in THF (10 mL) was added sodium hydride (60% dispersion in mineral oil, 0.25 g, 6.3 mmol) and ethyl acetate (2.05 ml, 21.0 mmol) and the mixture was stirred at 60° C. for 2 h. After cooling to 0° C., water was added (25 mL) and the aqueous layer was washed with dichloromethane (3×15 mL), acidified with 1N HCl to pH 3 and extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with brine (30 mL) then dried with sodium sulfate, filtered and concentrated to give 2-(8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-3-oxobutanenitrile as an orange solid (0.37 g; 75% yield). 1H NMR (400 MHz, d6-DMSO) δ 7.05 (dd, 1H), 6.93 (br. s, 1H), 4.30 (m, 5H), 2.30 (s, 3H).

reactant | (8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)acetonitrile | 2.10 mmol, 0.40 g | FC1=CC(=CC2=C1OCCO2)CC#N | C10H8FNO2
reactant | sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
reactant | ethyl acetate | 21.0 mmol, 2.05 ml | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)-3-oxobutanenitrile | 75% yield | FC1=CC(=CC2=C1OCCO2)C(C#N)C(C)=O | C12H10FNO3
